US04290963
One gram of 17α-acetoxy-17β-ethynyl-4-estren-3-one is treated analogously to Example 1 in "Dowtherm" for 10 minutes at 250° C. and worked up. Recrystallization from isopropyl ether yields 500 mg of 17-ethynyl-4,16-estradien-3-one, m.p. 148°-152° C. (40% of theory).

reactant | 17α-acetoxy-17β-ethynyl-4-estren-3-one | One gram | C(C)(=O)O[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)C#C | C22H28O3
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 17-ethynyl-4,16-estradien-3-one | 500 mg | C(#C)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O | C20H24O
